US06852713B2
Step G: 1-(1-(S)-Phenyl-2-pyrrolidin-1-yl-ethyl)-3-[3-(pyrrolidine-1-sulfonyl)-phenyl]-1,3,4,7-tetrahydro-azepin-2-one
To a stirred solution of 2-[3-(pyrrolidine-1-sulfonyl)-phenyl]-pent-4-enoic acid allyl-(1-(S)-phenyl-2-pyrrolidin-1-yl-ethyl)-amide (2.10 g, 4.03 mmol) in anhydrous dichloromethane (40 cm3) under an atmosphere of dry nitrogen was added 2M HCl in Et2O (8 cm3, 16 mmol). The solution was stirred at ambient temperature for 30 minutes and the volatile fractions removed in vacuo. The resulting foam was dried at 60° C. under vacuum for 3 hours and dissolved with stirring in anhydrous dichloromethane (100 cm3). Grubb's ruthenium metathesis catalyst (171 mg, 0.202 mmol) was added and dry argon bubbled through the solution for 10 minutes. The solution under dry argon was heated to reflux for 16 hours and cooled to ambient temperature. The solution was treated with tris(hydroxymethyl)phosphine hydrochloride (646 mg, 4.03 mmol) followed by triethylamine (1.12 cm3, 8.06 mmol) and the mixture stirred at ambient temperature for 30 minutes. Water (100 cm3) was added and the mixture was stirred an additional 30 minutes at ambient temperature. The dichloromethane solution was washed with 1 M Na2CO3 (2×50 cm3), brine (1×50 cm3), dried over sodium sulfate, vacuum filtered and the volatile fractions removed in vacuo to afford a dark viscous oil (1.99 g, 4.03 mmol) that partially crystallized over time. The crude product was purified by column chromatography (silica, eluting with hexane-ethyl acetate 4:1 to 0:1) to afford two pure title compound diastereoisomers, a minor diastereoisomer (260 mg, 13.1%), positive ion ESI (M+H)+494.3, NMR (400 MHz) δ 7.69-7.74 (3H, m), δ 7.53 (1H, m), δ 7.27-7.33 (5H, m), δ 6.05 (1H, m), δ 5.80 (1H, m), δ 5.72 (1H, m), δ 4.47 (1H, m), δ 3.98 (1H, m), δ 3.27 (6H, m), δ 2.50-2.96 (7H, m), δ 1.76 (8H, m) (typical upper diastereoisomer splitting pattern δ 3.8-6.5) and a major diastereoisomer (576 mg, 29.2%), positive ion ESI (M+H)+494.3, NMR (400 MHz) δ7.65-7.74 (3H, m), δ 7.53 (1H, m) δ 7.26-7.33 (5H, m), δ 6.05 (1H, m), δ 5.66 (1H, m), δ5.42 (1H, m), δ 4.51 (1H, m), δ 4.29 (1H, m), δ 3.26-3.37 (6H, m), δ 2.51-3.06 (7H, m), δ 1.72-179 (8H, m) (typical lower splitting diastereoisomer pattern). The major diastereoisomer was crystallized from methanol (6 cm3) and vacuum filtered to afford tan crystals, m.p. 95-99° C. The absolute stereochemistry was definitively established by X-ray analysis of a single crystal and was performed on a Bruker platform diffractometer equipped with an APEX detector with MoKα radiation, solved by direct methods and completed from subsequent difference Fourier syntheses.

reactant | 2-[3-(pyrrolidine-1-sulfonyl)-phenyl]-pent-4-enoic acid allyl-(1-(S)-phenyl-2-pyrrolidin-1-yl-ethyl)-amide | 4.03 mmol, 2.10 g | C(C=C)N(C(C(CC=C)C1=CC(=CC=C1)S(=O)(=O)N1CCCC1)=O)[C@H](CN1CCCC1)C1=CC=CC=C1 | C30H39N3O3S
reactant | HCl | 2M | Cl | ClH
reactant | Et2O | 16 mmol, 8 cm3 | CCOCC | C4H10O
reactant | tris(hydroxymethyl)phosphine hydrochloride | 4.03 mmol, 646 mg | Cl.OCP(CO)CO
reactant | triethylamine | 8.06 mmol, 1.12 cm3 | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 40 cm3 | ClCCl | CH2Cl2
catalyst | ruthenium | [Ru] | Ru
solvent | Water | 100 cm3 | O | H2O
product | 1-(1-(S)-Phenyl-2-pyrrolidin-1-yl-ethyl)-3-[3-(pyrrolidine-1-sulfonyl)-phenyl]-1,3,4,7-tetrahydro-azepin-2-one | 4.03 mmol, 1.99 g | C1(=CC=CC=C1)[C@@H](CN1CCCC1)N1C(C(CC=CC1)C1=CC(=CC=C1)S(=O)(=O)N1CCCC1)=O | C28H35N3O3S
